data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:2][n+:11]1[o:28][n:16][c:12]2[c:14]3[n+:7]([O-:17])[o:3][n:19][c:15]3[c:18]([N+:4]([O-:23])=[O:30])[cH:13][c:35]12.[cH:1]1[cH:20][cH:31][c:8]([S:36](=[O:9])(=[O:10])[CH:22]=[C:33]2[CH:5]=[CH:26][C:34](=[N+:29]([O-:24])[O-:25])[CH:27]=[CH:6]2)[cH:32][cH:21]1>>[cH:1]1[cH:20][cH:31][c:8]([S:36](=[O:9])(=[O:10])[CH:22]([CH:13]2[C:18](=[N+:4]([O-:23])[O-:30])[c:15]3[c:14]([n+:7]([O-:17])[o:3][n:19]3)-[c:12]3[n:16][o:28][n+:11]([O-:2])[c:35]32)[c:33]2[cH:5][cH:26][c:34]([N+:29](=[O:24])[O-:25])[cH:27][cH:6]2)[cH:32][cH:21]1", "epd": [["LP-/Pi+", [24], [29, 24]], ["Pi-/Pi+", [34, 29], [27, 34]], ["Pi-/Pi+", [6, 27], [33, 6]], ["Pi-/Sigma+", [22, 33], [22, 13]], ["Pi-/Pi+", [13, 18], [18, 4]], ["Pi-/LP+", [4, 30], [30]]]}
{"reaction_name": "Henry (nitroaldol) addition", "rsmi": "[CH2-:4][N+:5]([O-:11])=[O:12].[O:1]=[CH:3][c:2]1[cH:9][cH:7][cH:6][cH:8][cH:10]1>>[O-:1][CH:3]([c:2]1[cH:9][cH:7][cH:6][cH:8][cH:10]1)[CH2:4][N+:5]([O-:11])=[O:12]", "epd": [["LP-/Sigma+", [4], [3, 4]], ["Pi-/LP+", [1, 3], [1]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[cH:6][cH:5][c:12]2[c:4]([cH:11]1)[CH2:28][CH:14]=[C:15]2[N:13]1[CH2:22][CH2:3][CH2:2][CH2:23]1.[cH:7]1[c:16]([CH+:31][c:17]2[cH:8][c:20]([F:26])[cH:30][c:21]([F:27])[cH:9]2)[cH:10][c:18]([F:24])[cH:29][c:19]1[F:25]>>[cH:1]1[cH:6][cH:5][c:12]2[c:4]([cH:11]1)[CH2:28][CH:14]([CH:31]([c:16]1[cH:7][c:19]([F:25])[cH:29][c:18]([F:24])[cH:10]1)[c:17]1[cH:8][c:20]([F:26])[cH:30][c:21]([F:27])[cH:9]1)[C:15]2=[N+:13]1[CH2:22][CH2:3][CH2:2][CH2:23]1", "epd": [["LP-/Pi+", [13], [15, 13]], ["Pi-/Sigma+", [14, 15], [14, 31]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:2]=[S:10](=[O:3])([C:12]([F:35])([F:36])[F:37])[c:30]1[cH:22][c:11]2[n+:13]([O-:5])[o:34][n:15][c:38]2[c:26]([N+:17]([O-:14])=[O:25])[cH:33]1.[cH:1]1[cH:19][cH:23][c:18]([B-:4]2([CH2:21][CH:16]=[CH2:29])[O:31][C:27]([CH3:6])([CH3:7])[C:28]([CH3:8])([CH3:9])[O:32]2)[cH:24][cH:20]1>>[cH:1]1[cH:19][cH:23][c:18]([B-:4]2([CH2:21][CH+:16][CH2:29][CH:22]3[c:11]4[n+:13]([O-:5])[o:34][n:15][c:38]4[C:26](=[N+:17]([O-:14])[O-:25])[CH:33]=[C:30]3[S:10](=[O:2])(=[O:3])[C:12]([F:35])([F:36])[F:37])[O:31][C:27]([CH3:6])([CH3:7])[C:28]([CH3:8])([CH3:9])[O:32]2)[cH:24][cH:20]1", "epd": [["Pi-/Sigma+", [29, 16], [29, 22]], ["Pi-/Pi+", [22, 30], [30, 33]], ["Pi-/Pi+", [33, 26], [26, 17]], ["Pi-/LP+", [17, 25], [25]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[cH:2]1[cH:8][c:35]([B-:38]2([c:15]3[s:20][c:14]([CH3:23])[cH:16][cH:30]3)[O:11][c:39]3[cH:32][cH:34][cH:33][cH:31][c:40]3[O:12]2)[cH:9][cH:3][c:10]1[C:21]([F:17])([F:18])[F:19].[n+:1]1([CH3:22])[c:4]2[cH:24][cH:28][cH:26][cH:6][c:36]2[cH:13][c:37]2[c:5]1[cH:25][cH:29][cH:27][cH:7]2>>[N:1]1([CH3:22])[c:4]2[cH:24][cH:28][cH:26][cH:6][c:36]2[CH:13]([c:15]2[s:20][c:14]([CH3:23])[cH:16][cH:30]2)[c:37]2[c:5]1[cH:25][cH:29][cH:27][cH:7]2.[cH:2]1[cH:8][c:35](-[b-:38]2[o+:11][c:39]3[cH:32][cH:34][cH:33][cH:31][c:40]3[o:12]2)[cH:9][cH:3][c:10]1[C:21]([F:17])([F:18])[F:19]", "epd": [["LP-/Pi+", [11], [38, 11]], ["Sigma-/Sigma+", [15, 38], [15, 13]], ["Pi-/Pi+", [13, 36], [36, 4]], ["Pi-/LP+", [4, 1], [1]]]}
{"reaction_name": "Terpinyl cation rearrangement", "rsmi": "[CH3:1][C+:2]1[CH2:8][CH2:6][C:3]([CH3:4])([CH3:5])[CH2:7][CH2:9]1>>[CH3:1][C:2]1([CH3:5])[CH2:8][CH2:6][C+:3]([CH3:4])[CH2:7][CH2:9]1", "epd": [["Sigma-/Sigma+", [3, 5], [2, 5]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:10](=[O+:27][CH3:24])[c:28]1[cH:20][cH:18][cH:13][cH:19][cH:21]1.[cH:1]1[c:5]([CH:3]=[C:17]2[CH:25]=[CH:11][CH:12]=[CH:26]2)[cH:2][c:9]2[c:4]3[c:8]1[CH2:22][CH2:15][CH2:7][N:14]3[CH2:6][CH2:16][CH2:23]2>>[cH:1]1[c:5](=[CH:3][C:17]2=[CH:26][CH:12]=[CH:11][CH:25]2[CH:10]([O:27][CH3:24])[c:28]2[cH:20][cH:18][cH:13][cH:19][cH:21]2)[cH:2][c:9]2[c:4]3[c:8]1[CH2:22][CH2:15][CH2:7][N+:14]=3[CH2:6][CH2:16][CH2:23]2", "epd": [["LP-/Pi+", [14], [4, 14]], ["Pi-/Pi+", [8, 4], [1, 8]], ["Pi-/Pi+", [5, 1], [3, 5]], ["Pi-/Pi+", [17, 3], [26, 17]], ["Pi-/Pi+", [12, 26], [11, 12]], ["Pi-/Sigma+", [25, 11], [25, 10]], ["Pi-/LP+", [10, 27], [27]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:4]([cH:14][cH:12][cH:24][cH:7]1)-[c:5]1[c:2]([cH:8][cH:25][cH:13][cH:15]1)[N+:23]2=[CH:3][CH3:22].[cH:6]1[cH:16][cH:10][c:20]2[c:9]([cH:26]1)[CH:27]([Zn-:19]([Cl:17])[Cl:18])[CH:21]=[CH:11]2>>[Cl:17][Zn:19][Cl:18].[c:1]12[c:4]([c:5]3[c:2]([cH:8][cH:25][cH:13][cH:15]3)[n:23]1[CH:3]([CH3:22])[CH:27]1[c:9]3[c:20]([cH:10][cH:16][cH:6][cH:26]3)[CH:11]=[CH:21]1)[cH:14][cH:12][cH:24][cH:7]2", "epd": [["Sigma-/Sigma+", [27, 19], [27, 3]], ["Pi-/LP+", [3, 23], [23]]]}
